US05189046
To a rapidly stirred solution of 400 mg (0.77 mmol) of 3-amino-4-oxo-4-[([1-(1-oxotridecyl)-2-piperidinyl]methyl)amino]butanoic acid phenylmethyl ester in 6.0 mL of diethyl ether was added 1.5 mL (1.5 mmol) of 1.0N HCl in diethyl ether. The mixture was stirred for 3 minutes and then the resulting solid was collected by vacuum filtration, providing 370 mg (87%) of 3-amino-4-oxo-4-[([1-(1-oxotridecyl)-2-piperidinyl]methyl)amino]butanoic acid phenylmethyl ester hydrochloride as a yellow solid. Mp.>55° C. (decomposition).

reactant | 3-amino-4-oxo-4-[([1-(1-oxotridecyl)-2-piperidinyl]methyl)amino]butanoic acid phenylmethyl ester | 0.77 mmol, 400 mg | C1(=CC=CC=C1)COC(CC(C(NCC1N(CCCC1)C(CCCCCCCCCCCC)=O)=O)N)=O | C30H49N3O4
reactant | HCl | 1.5 mmol, 1.0N, 1.5 mL | Cl | ClH
solvent | diethyl ether | 6.0 mL | C(C)OCC | C4H10O
product | 3-amino-4-oxo-4-[([1-(1-oxotridecyl)-2-piperidinyl]methyl)amino]butanoic acid phenylmethyl ester hydrochloride | 370 mg, 87% | Cl.C1(=CC=CC=C1)COC(CC(C(NCC1N(CCCC1)C(CCCCCCCCCCCC)=O)=O)N)=O | InChI=1S/C30H49N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-14-20-28(34)33-21-16-15-19-26(33)23-32-30(36)27(31)22-29(35)37-24-25-17-12-11-13-18-25;/h11-13,17-18,26-27H,2-10,14-16,19-24,31H2,1H3,(H,32,36);1H
